US05616586
9-Bromo-5-phenethylcarbamoyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 5 was carried out with 9-bromo-5-carboxy-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (300 mg, 0.92 mmol) and phenethylamine (121 mg, 1.0 mmol) to give 330 mg of the title compound(84%): mp>250° C.; 1H NMR (270 MHz, DMSO-d6) δ12.12 (s, 1H), 8.21 (t, 1H, J=5.6 Hz), 7.09~7.39 (m, 7H), 5.07 (m, 1H), 3.24~3.33 (m, 2H), 2.64~2.73 (m, 3H), 2.25~2.32 (m, 2H), 1.80~1.95 (m, 1H).

reactant | 9-bromo-5-carboxy-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.92 mmol, 300 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)C(=O)O | C12H9BrN2O4
reactant | phenethylamine | 1.0 mmol, 121 mg | C(CC1=CC=CC=C1)N | C8H11N
product | 9-Bromo-5-phenethylcarbamoyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 330 mg, 84% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)C(NCCC2=CC=CC=C2)=O | C20H18BrN3O3
